US08133909B2
(2,4-Dimethyl-thiazol-5-yl)-(2-p-tolyl-ethyl)-amine
In analogy to the procedure described for the synthesis example 32 (step 1), the title compound (2,4-dimethyl-thiazol-5-yl)-(2-p-tolyl-ethyl)-amine (MS m/e: 247.0 [M+H]+) was prepared from 5-bromo-2,4-dimethyl-1,3thiazole and 2-(p-tolyl)ethylamine.

reactant | 5-bromo-2,4-dimethyl-1,3thiazole | BrC1=C(N=C(S1)C)C | C5H6BrNS
reactant | 2-(p-tolyl)ethylamine | C1(=CC=C(C=C1)CCN)C | C9H13N
product | (2,4-dimethyl-thiazol-5-yl)-(2-p-tolyl-ethyl)-amine | CC=1SC(=C(N1)C)NCCC1=CC=C(C=C1)C | C14H18N2S
